US07405305B2
3-(tert-Butyldimethylsilyloxymethyl)-4-indol-1-ylpiperidine-1-carboxylic acid tert-butyl ester
Dissolve 3-Hydroxymethyl-4-indol-1-ylpiperidine-1-carboxylic acid tert-butyl ester (1.1 g, 3.3 mmol) in dichloromethane (20 ml). Add imidazole (340 mg, 5.0 mmol) and tert-butyldimethylsilyl chloride (754 mg, 5.0 mmol) and stir at ambient temperature for 72 hours. Dilute with dichloromethane, wash with 1N HCl, water, brine. Dry with sodium sulfate, filter, and concentrate to an oil. Purify by flash chromatography (10% ethyl acetate:hexanes) to yield the title compound (1.48 g, 100%). ES (M++1): 389.2

reactant | 3-Hydroxymethyl-4-indol-1-ylpiperidine-1-carboxylic acid tert-butyl ester | 3.3 mmol, 1.1 g | C(C)(C)(C)OC(=O)N1CC(C(CC1)N1C=CC2=CC=CC=C12)CO | C19H26N2O3
reactant | imidazole | 5.0 mmol, 340 mg | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 5.0 mmol, 754 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3-(tert-Butyldimethylsilyloxymethyl)-4-indol-1-ylpiperidine-1-carboxylic acid tert-butyl ester | 1.48 g, 100% | C(C)(C)(C)OC(=O)N1CC(C(CC1)N1C=CC2=CC=CC=C12)CO[Si](C)(C)C(C)(C)C | C25H40N2O3Si
